US05438054
The same procedure as in Example 8-1 was carried out by using allyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (220 mg, 0.440 mmol) and (2R,4S)-N-allyloxycarbonyl-2-(2,4-dioxoimidazolidin-5-ylmethyl)-4-tritylthiopyrrolidine diastereomer B (220 mg, 0.406 mmol, compound of Reference Example 29) to obtain allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-(2,4-dioxoimidazolidin-5-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate diastereomer B (70 mg, yield: 31%).

reactant | 1-methyl-1-carbapen-2-em-3-carboxylate | 0.440 mmol, 220 mg | CC1C=C(N2[C@H]1CC2=O)C(=O)[O-]
reactant | (2R,4S)-N-allyloxycarbonyl-2-(2,4-dioxoimidazolidin-5-ylmethyl)-4-tritylthiopyrrolidine | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1C(NC(N1)=O)=O | C31H31N3O4S
product | allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-(2,4-dioxoimidazolidin-5-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | yield: 31% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C)CC2C(NC(N2)=O)=O | C25H32N4O8S
